2199-03-14 07:34:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 **] yo M with diabetes, hyperlipedemia, and
   hypertension without past known CV disease presents with chest
   discomfort and ST depression consistent with NSTEMI.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-3-13**] 12:23 PM
 NON-INVASIVE VENTILATION - STOP [**2199-3-13**] 12:46 PM
 TRANSTHORACIC ECHO - At [**2199-3-13**] 04:08 PM
   - IV 40mg Lasix at 13:20.
   - possible CCath tomorrow, NPO after midnight.
   - Initial K 6.3, given kayexalate and insulin, now 3.6
   - NSVT 15:38
   - TTE prelim decreased EF, severe AS, MR, LV hypokinetic dysfunction.
   - 40mg IV lasix given - patient even since in ICU
   - chest discomfort - similar to presenting symptoms - no radiation,
   nausea, vomiting, diaphoresis, worsening sob - EKG with ST depression
   V2-6 (prior V4-6) - blood pressure low - gave 2 morphine (afraid NTG
   would drop BP too much due to AS) - chest pain relieved, EKG similar
   post chest pain, drew cardiac enzymes - CK downtrending.
   - started lasix gtt at MN - 93% 70%FM
   - 4 am - lasix gtt without much UOP (only 80cc/hr @ 10mg/hr).  Checking
   AM labs early to see trend of Cr before increasing gtt more.
   - BiPAP, to FM 70%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2199-3-13**] 01:13 PM
   Insulin - Regular - [**2199-3-13**] 03:01 PM
   Furosemide (Lasix) - [**2199-3-13**] 09:45 PM
   Morphine Sulfate - [**2199-3-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 107 (80 - 113) bpm
   BP: 100/64(73) {84/49(56) - 114/75(85)} mmHg
   RR: 21 (16 - 37) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    633 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    633 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,122 mL
                                                                    440 mL
   Urine:
                                                                  1,122 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -489 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 964 (964 - 964) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Well nourished, Elderly male, facial ecchymosis
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic
 aortic
   stenosis, mitral regurg)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), No
   femoral bruit
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles bibasilar: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   129 K/uL
   10.7 g/dL
   137 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   47 mg/dL
   100 mEq/L
   138 mEq/L
   31.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2199-3-13**]  03:42 PM
                             [**2199-3-13**]  05:48 PM
                             [**2199-3-14**]  12:19 AM
                             [**2199-3-14**]  04:56 AM
   WBC
   8.1
   Hct
   31.1
   Plt
   129
   Cr
   1.6
   1.9
   2.0
   TropT
   8.88
   9.60
   Glucose
   209
   137
   Other labs: PT / PTT / INR:13.5/60.0/1.2, CK / CKMB /
   Troponin-T:1227/60/9.60, Mg++:2.6 mg/dL
   Imaging: [**2199-3-13**] CXR: Pulmonary edema. More confluent opacity in the
   right lower lung may represent component of edema, but a supeirmposed
   consolidation/pneumonia (or contusion is posttraumatic) can not be
   excluded. Consider repeat after diuresis.
   [**2199-3-13**] TTE: The left atrium is mildly dilated. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. There is moderate regional left ventricular systolic
   dysfunction with inferior and inferolateral akinesis/hypokinesis. Right
   ventricular chamber size and free wall motion are normal. The aortic
   root is moderately dilated at the sinus level. The ascending aorta is
   mildly dilated. The aortic valve leaflets are severely
   thickened/deformed. There is significant aortic stenosis that is
   probably severe (estimated aortic valve area ~0.8 cm2). No aortic
   regurgitation is seen. The mitral valve leaflets are moderately
   thickened. There is moderate thickening of the mitral valve chordae.
   Moderate to severe (3+) mitral regurgitation is seen. The tricuspid
   valve leaflets are mildly thickened. There is mild pulmonary artery
   systolic hypertension. There is a trivial/physiologic pericardial
   effusion. No ventricular thrombus identified.
   Microbiology: Blood cultures pending x 2
   ECG: ST depression V2-V6 overnight with odd sensation in chest
   Assessment and Plan
   [**Age over 90 **] yo M with diabetes, hyperlipedemia, and hypertension without past
   known CV disease presents with chest discomfort and ST depression
   consistent with NSTEMI.
   # NSTEMI: TIMI score of 5. The patient has elevated biomarkers. Denies
   past CV disease but EKG suggest prior inferior MI. Echo shows
   significant systolic dysfunction. Will consider cardiac
   catheterization. Continue medical management for now.
   - heparin gtt, plavix, aspirin
   - high dose atorvastatin
   - trend biomarkers
   - cont tele
   - control HTN - beta blocker
   - guaiac stools
   - cardiac catheterization today
 mucomyst, hold lasix gtt for now
   # Shortness of breath, hypoxia: Continues to require oxygen for
   support. Acute pulmonary edema most likely secondary to AS and
   compromised cardiac function. Lack of effusions suggest acute evolution
   of NSTEMI. Less likely pneumonia although will evaluated with PA/Lat
   CXR today after some diuresis. The patient was started on a lasix gtt
   with poor urine output and a rise in creatinine. [**Month (only) 11**] be secondary to
   PE, although currently treating for PE, CT would be dangerous to
   kidneys and V/Q would be difficult due to amount of pulmonary
   involvement on CXR.
   - hold lasix gtt due to cath procedure and dye load
   - trend Cr
   - wean oxygen as tolerated
   # Acute on chronic kidney disease: The patient has a [**Month (only) 4578**]
   creatinine of 1.2-1.4. Presents at 1.6. Worsened with attempts to
   diurese overnight.
   - trend creatinine
   - was given mucomyst before cath
   - metformin held
   - be careful with diuresis
   - UA and urine lytes if not improving
   # Relative hypotension: appears to be mentating well. No evidence of
   hypoperfusion on examination. If worsens would be concerned for
   cardiogenic shock and would need additional therapy including possible
   pressor support.
   # Hyperkalemia: likely secondary to [**Last Name (un) 2406**]. EKG without evidence of peaked
   T waves. Repeat K have been within normal limits.
   - trend lytes
   # Diabetes: controlled on metformin at home
   -d/c insulin drip
   -start ISS
   -Hold home meds
   #Hypertension.  Patient is now normotensive likely due to mild
   cardiogenic shock. Continue beta blocker
   - Hold ACEi given compromised kidney function
   - Hold Nifedipine
   - Continue with low dose  beta blocker if pressure tolerates
   #Trauma to face, s/p fall onto right side.  Patient denies LOC, altered
   sensorium, weakness, palpitations, preceding chest pain, and postictal
   state.  Patient is neurologically intact on exam.  No broken bones
   visible on CXray.
   -Will monitor for continued signs and symptoms.
   -See trauma note.
   #Pernictious anemia. Treated with B12 by PCP.  [**Name10 (NameIs) **] Hct 36-39.
   ICU Care
   Nutrition:
   Comments: NPO p MN
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2199-3-13**] 12:25 PM
   20 Gauge - [**2199-3-13**] 01:57 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 288**] [**Last Name (NamePattern1) 10748**] (daughter) [**Telephone/Fax (1) 10749**], cell
   [**Telephone/Fax (1) 10750**]
   Code status: Full code
   Disposition:ICU